US09255089B2
To methyl 2-amino-5-bromo-4-fluorobenzoate (20 g, 80.6 mol.) and 3,5-Dimethylisoxazole-4-boronic acid pinacol ester (24.2 g, 108.9 mol., 1.35 mmol) was added to a solvent mixture of 1,2-dimethoxymethane (120 ml) and water (60 ml). To the above mixture were added PEPPSI-Ipr (3120 mg, 4.2 mmol, 0.05 equiv.) and Cs2CO3 (78.8 g, 241 mol., 3 equiv.). The reaction mixture was heated at 120° C. for 2 h in a pressure tube. The reaction mixture was then diluted with EtOAc (100 ml), washed with bring (50 ml×2). The organic solvent was evaporated and the residue was dissolved in DCM and purified with combi-flash column chromatography (product came out at 50% EtOAc/Hexane) to afford methyl 2-amino-5-(3,5-dimethylisoxazol-4-yl)-4-fluorobenzoate.

reactant | methyl 2-amino-5-bromo-4-fluorobenzoate | 80.6 mol, 20 g | NC1=C(C(=O)OC)C=C(C(=C1)F)Br | C8H7BrFNO2
reactant | 3,5-Dimethylisoxazole-4-boronic acid pinacol ester | 108.9 mol, 24.2 g | CC1=NOC(=C1B1OC(C)(C)C(C)(C)O1)C | C11H18BNO3
reactant | water | 60 ml | O | H2O
reactant | Cs2CO3 | 241 mol, 78.8 g, 3 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | methyl 2-amino-5-(3,5-dimethylisoxazol-4-yl)-4-fluorobenzoate | NC1=C(C(=O)OC)C=C(C(=C1)F)C=1C(=NOC1C)C | C13H13FN2O3
